US05633272
A solution of [3,4-diphenylisoxazol-5-yl]propanoic acid was treated with ethanol in the presence of a catalytic amount of sulfuric acid to prepare the corresponding ethyl ester which was immediately treated with chlorosulfonic acid followed by ammonia according to the procedure from Example 2, Step 4. The crude sulfonamide was purified by flash chromatography eluting with ethyl acetate/hexane (10-50% ethyl acetate) to yield, upon concentration of the appropriate fractions, ethyl [4-[4-(aminosulfonyl)phenyl]-3-phenylisoxazol-5-yl]propanoate as a glassy solid (248 mg, 60%): Mass spectrum: MH+=401. 1H NMR (CDCl3 /300 MHz) δ 7.93 (d, J=8.46 Hz, 2H); 7.41-7.30 (m, 7H), 4.84 (s, 2H), 4.14 (q, J=7.04 Hz, 2H), 3.12 (t, J=7.45 Hz, 2H), 2.81 (t, J=7.45 Hz, 2H), 1.25 (t, J=7.04 Hz, 3H). This material was used directly in the next step without further purification.

reactant | [3,4-diphenylisoxazol-5-yl]propanoic acid | C1(=CC=CC=C1)C1=NOC(=C1C1=CC=CC=C1)C(C(=O)O)C | C18H15NO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | ammonia | N | H3N
reactant | ethanol | C(C)O | C2H6O
product | ethyl [4-[4-(aminosulfonyl)phenyl]-3-phenylisoxazol-5-yl]propanoate | 248 mg, 60% | NS(=O)(=O)C1=CC=C(C=C1)C=1C(=NOC1C(C(=O)OCC)C)C1=CC=CC=C1 | C20H20N2O5S
